US06376490B1
2-Methoxycarbonylpyridine-5-carboxylic acid hydrazide
A mixture of 2-methoxycarbonylpyridine-5-carboxylic acid (Chem. Abstr., 68, 68840 h (1968)) (0.40 g, 2.2 mmol) and N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline (0.60 g, 2.4 mmol) in dichloromethane (10 mL) was stirred at room temperature under nitrogen for 0.75 hour. Hydrazine hydrate (0.110 mL, 2.2 mmol) was then added and after a further 5 minutes the precipitate formed was collected by filtration, washed with dichloromethane and dried to give the title compound (0.349 g, 81%) as white solid, mp 177-180° C.

reactant | 2-methoxycarbonylpyridine-5-carboxylic acid | 2.2 mmol, 0.40 g | COC(=O)C1=NC=C(C=C1)C(=O)O | C8H7NO4
reactant | N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 2.4 mmol, 0.60 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
reactant | Hydrazine hydrate | 2.2 mmol, 0.110 mL | O.NN
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Methoxycarbonylpyridine-5-carboxylic acid hydrazide | 0.349 g, 81% | COC(=O)C1=NC=C(C=C1)C(=O)NN | C8H9N3O3
